US04285872
To the same apparatus as described in Example 1 were added 2,150 g (25 mol) of methyl acrylate, 370 g (5 mol) of glycide, 1 g of phenothiazine as the polymerization inhibitor and 41.3 g (0.068 mol) of calcium stearate as the catalyst. The resulting mixture was heated at a temperature of 50° to 70° C. under a reduced pressure of 200 to 400 mmHg while introducing a slight amount of air to effect the reaction while distilling off the formed methanol as an azeotropic mixture with methyl acrylate. The reaction was completed in 2 hours. The formation of glycidyl acrylate was 96.5%. 575 g of glycidyl acrylate was obtained by the distillation (purity: 98.1%, yield: 89.7%).

reactant | methyl acrylate | 25 mol, 2,150 g | C(C=C)(=O)OC | C4H6O2
reactant | glycide | 5 mol, 370 g | C1C(O1)CO | C3H6O2
catalyst | phenothiazine | 1 g | C1=CC=CC=2SC3=CC=CC=C3NC12 | C12H9NS
catalyst | calcium stearate | 0.068 mol, 41.3 g | C(CCCCCCCCCCCCCCCCC)(=O)[O-].[Ca+2].C(CCCCCCCCCCCCCCCCC)(=O)[O-]
product | glycidyl acrylate | 575 g, yield: 89.7% | C(C=C)(=O)OCC1CO1 | C6H8O3
